US05463069
N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea (2.94 g) and zinc chloride (6.08 g) were added to xylene (50 ml) at room temperature, and the mixture was heated to 90° C. and stirred at the same temperature for 1.5 hour. After cooling, water was added to the reaction mixture, which was neutralized by addition of potassium hydrogen carbonate and extracted with ethyl acetate. The organic layer was washed with water. The solvent was removed by distillation under reduced pressure, and the residual oil was subjected to preparative liquid chromatography, which afforded 1.92 g of 2-imino-3-(3-(trifluoromethyl)phenyl)-5-methylidenethiazolidine (74% yield). From the results of analysis by liquid chromatography, the purity was determined to be not lower than 99%.

reactant | N-(3-(trifluoromethyl)phenyl)-N-(2-chloro-2-propenyl)thiourea | 2.94 g | FC(C=1C=C(C=CC1)N(C(=S)N)CC(=C)Cl)(F)F | C11H10ClF3N2S
reactant | xylene | 50 ml | C=1(C(=CC=CC1)C)C | C8H10
reactant | potassium hydrogen carbonate | C(O)([O-])=O.[K+]
catalyst | zinc chloride | 6.08 g | [Cl-].[Zn+2].[Cl-]
solvent | water | O | H2O
product | 2-imino-3-(3-(trifluoromethyl)phenyl)-5-methylidenethiazolidine | 1.92 g, 74% yield | N=C1SC(CN1C1=CC(=CC=C1)C(F)(F)F)=C | C11H9F3N2S
